US06174884B1
1-[1-(1-Hydroxy-ethyl)-4-phenyl-butyl]-6-(4-methoxy-benzyl)-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one
Starting from 1 g (3.31 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide and 1.52 g (8.26 mmol) of 4-methoxyphenylacetyl chloride, the title compounds are prepared analogously to the protocol of Example 13. This gives 240 mg (17%) of the diastereomer which elutes more rapidly, M.p.: 41° C., and 134 mg (9%) of the diastereomer which elutes more slowly, M.p.: 48° C.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-pyrazole-4-carboxamide | 3.31 mmol, 1 g | NC1=C(C=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C16H22N4O2
reactant | 4-methoxyphenylacetyl chloride | 8.26 mmol, 1.52 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
product | 1-[1-(1-Hydroxy-ethyl)-4-phenyl-butyl]-6-(4-methoxy-benzyl)-1,5-dihydro-pyrazolo-[3,4-d]pyrimidin-4-one | OC(C)C(CCCC1=CC=CC=C1)N1N=CC2=C1N=C(NC2=O)CC2=CC=C(C=C2)OC | C25H28N4O3
